US08420655B2
5-{1-tert-Butyl-2-[2-(1-methyl-1H-pyrazol-4-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a solution of 5-[2-(2-bromo-phenyl)-1-tert-butyl-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine (70 mg, 0.17 mmol) in DMF (5 mL) and H2O (1 mL) are added 1-methylpyrazole-4-boronic acid pinacol ester (52 mg, 0.25 mmol), Pd(PPh3)4 (19 mg, 0.017 mmol) and K2CO3 (23 mg, 0.17 mmol) at room temperature. The solution is heated to 120° C. for 1 hour in a microwave reactor. The solution is cooled down and 3-mercaptopropyl-functionalized silica gel (500 mg) is added. The solution is stirred for 15 minutes and then filtered. The filtrate is washed with H2O (10 mL) and is extracted with EtOAc (3×15 mL). The combined organic layer is dried (MgSO4), filtered and concentrated. The residue is purified by silica gel flash chromatography eluting with 10% MeOH in CH2Cl2 to afford the title compound (24 mg, 34%) as a white solid. LCMS (ESMS): m/z 424.20 (M++1)

reactant | 5-[2-(2-bromo-phenyl)-1-tert-butyl-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine | 0.17 mmol, 70 mg | BrC1=C(C=CC=C1)C1=NC2=C(N1C(C)(C)C)C=CC(=C2)C=2C=NC(=NC2)N | C21H20BrN5
reactant | 1-methylpyrazole-4-boronic acid pinacol ester | 0.25 mmol, 52 mg | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
reactant | K2CO3 | 0.17 mmol, 23 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.017 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{1-tert-Butyl-2-[2-(1-methyl-1H-pyrazol-4-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 24 mg, 34% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)C=2C=NN(C2)C | C25H25N7
